US05552409
a. 3-nitro-4-methoxy benzoic acid
To a 500 ml erlenmeyer flask with magnetic stirrer was charged 10.3 g of 3-nitro-4-methoxy-methylbenzoate, 400 ml tetrahydrofuran, and 3.2 g of 86% potassium hydroxide. The reaction was stirred for 12 hours at ambient temperature, after which the resulting solid was collected by vacuum filtration and washed with 2×100 ml of ethyl ether. The solid was dissolved in 200 ml of water and acidified to pH 4 with 6N hydrochloric acid. The resulting precipitate was collected by vacuum filtration, washed with 200 ml water, and dried overnight in vacuo at 30° C. Isolated 7.4 g of product as a white solid.

reactant | 3-nitro-4-methoxy-methylbenzoate | 10.3 g | [N+](=O)([O-])C=1C(=C(C(=O)[O-])C=CC1OC)C
reactant | potassium hydroxide | 3.2 g | [OH-].[K+]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 3-nitro-4-methoxy benzoic acid | 7.4 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1OC | C8H7NO5
